US04179569
To 4500 parts of sulfuric acid are added portionwise 710 parts of 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarbonitrile, while keeping the temperature below 25° C. Upon completion, stirring is continued overnight at room temperature. The reaction mixture is poured onto a mixture of 10,000 parts of crushed ice and 3600 parts of ammonium hydroxide. The product is extracted with trichloromethane (7500 parts). The extract is dried, filtered and evaporated. The residue is stirred in 140 parts of 2,2'-oxybispropane. The product is filtered off and dried, yielding 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxamide; mp. 182.5° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarbonitrile | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C#N | C20H23N3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxamide | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)N | C20H25N3O
